US06602884B2
A solution of 480 mg of methyl (3RS,4RS)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-yl)thioethyl]piperidine-3-acetate, 5 cm3 of dioxane and 2.25 cm3 of a 1 N aqueous sodium hydroxide solution was heated, with stirring, at a temperature in the region of 60° C. for 1 hour 30 minutes. After concentrating the reaction mixture under reduced pressure (5 kPa) at a temperature the region of 40° C., the residue obtained was taken up in 50 cm3 of water and 20 cm3 of ether. The aqueous phase was separated after settling out and then washed twice with 10 cm3 of ether. It was then acidified by pouring 2.25 cm3 of 1 N hydrochloric acid. The precipitate formed was dissolved by adding 75 cm3 of dichloromethane. The organic phase was separated after settling out, dried over magnesium sulfate, filtered, and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The product obtained was then stirred in 30 cm3 of acetone. 4 cm3 of 4 N hydrochloric acid in dioxane were then poured over this solution. The reaction mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. and then 15 cm3 of acetone were added. This operation was repeated 5 times until a yellow solid was obtained, which solid was drained and then dried in a desiccator under reduced pressure (10 Pa) at a temperature of about 45° C. 395 mg of (3RS,4RS)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-propyl]-1-[2-(thien-2-yl)thioethyl]piperidine-3-acetic acid dihydrochloride were obtained in the form of a solid, which was off-white in color.

reactant | methyl (3RS,4RS)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-yl)thioethyl]piperidine-3-acetate | 480 mg | FC=1C=NC2=CC=C(C=C2C1CCCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)OC)OC | C27H33FN2O3S2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | dichloromethane | 75 cm3 | ClCCl | CH2Cl2
reactant | hydrochloric acid | 4 N, 4 cm3 | Cl | ClH
solvent | water | 50 cm3 | O | H2O
solvent | ether | 20 cm3 | CCOCC | C4H10O
solvent | acetone | 30 cm3 | CC(=O)C | C3H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
product | (3RS,4RS)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-propyl]-1-[2-(thien-2-yl)thioethyl]piperidine-3-acetic acid dihydrochloride | 395 mg | Cl.Cl.FC=1C=NC2=CC=C(C=C2C1CCCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)O)OC | InChI=1S/C26H31FN2O3S2.2ClH/c1-32-20-7-8-24-22(15-20)21(23(27)16-28-24)5-2-4-18-9-10-29(17-19(18)14-25(30)31)11-13-34-26-6-3-12-33-26;;/h3,6-8,12,15-16,18-19H,2,4-5,9-11,13-14,17H2,1H3,(H,30,31);2*1H
